US05198451
To a solution of 2-methylphenyl magnesium bromide (prepared from 4.9 g magnesium turnings and 24 ml of 2-bromotoluene) in dry THF (300 ml) was added dropwise a solution of 3'-methoxypropiophenone (25.9 g, 0.16 mol) in dry THF (200 ml). When addition was complete the mixture was heated at reflux temperature for 2 h. Water (250 ml) was added followed by a saturated ammonium chloride solution (250 ml) and the mixture was left overnight. A 4 N hydrochloric acid solution was added until a clear solution was obtained and the phases was separated. The organic phase was dried over magnesium sulphate and the solvent evaporated in vacuo. The residue was submitted to flash chromatography on silica gel (690 g) using a gradient of n-heptane in ethyl acetate to give 28.2 g (55%) of 1-(3-methoxyphenyl)-1-(2-methylphenyl)-1-propanol. A mixture of 1-(3-methoxyphenyl)-1-(2-methylphenyl)-1-propanol (26.2 g, 0.10 mol), isopropanol (300 ml) and a 6 N solution of sulphuric acid (150 ml) was stirred at room temperature for 2 h. The reaction mixture was neutralised with a 4 N sodium hydroxide solution and extracted with ethyl acetate (2×200 ml). The combined organic phases was dried over magnesium sulphate and the solvent was evaporated in vacuo. The residue was submitted to flash chromatography on silica gel (800 g) using n-heptane as eluent to give 18.4 g (76%) of 1-(3-methoxyphenyl)-1-(2-methylphenyl)-1-propene.

reactant | 1-(3-methoxyphenyl)-1-(2-methylphenyl)-1-propanol | 0.10 mol, 26.2 g | COC=1C=C(C=CC1)C(CC)(O)C1=C(C=CC=C1)C | C17H20O2
reactant | sulphuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
product | 1-(3-methoxyphenyl)-1-(2-methylphenyl)-1-propene | 18.4 g, 76% | COC=1C=C(C=CC1)C(=CC)C1=C(C=CC=C1)C | C17H18O
